US05719186
To a mixture of aluminum chloride (66 g, 0.50 mol) in carbon disulfide (600 mL) was added dropwise a solution of 4-(4-fluorophenyl)butyryl chloride (75.3 g, 0.37 mole) in carbon disulfide (260 mL) keeping the internal temperature below 10° C. After refluxing for 0.5 h, the reaction mixture was poured into a mixture of concentrated HCl (50 mL) and ice water (800 mL). The mixture was filtered and extracted with diethyl ether. The diethyl ether extracts were dried and concentrated in vacuo to give crude 7-fluoro-1-tetralone. Vacuum distillation gave pure 7-fluoro-1-tetralone b.p., 83° C. at 0.3 mm Hg which solidified to a white solid (94%). m.p., 62°-64° C. (lit, J. Am. Chem. Soc., 89, 386, 1967; m.p., 63.5°-65.0° C.)

reactant | aluminum chloride | 0.50 mol, 66 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-(4-fluorophenyl)butyryl chloride | 0.37 mole, 75.3 g | FC1=CC=C(C=C1)CCCC(=O)Cl | C10H10ClFO
reactant | HCl | 50 mL | Cl | ClH
solvent | carbon disulfide | 600 mL | C(=S)=S | CS2
solvent | carbon disulfide | 260 mL | C(=S)=S | CS2
product | 7-fluoro-1-tetralone | FC1=CC=C2CCCC(C2=C1)=O | C10H9FO
